US06369088B2
5-Methoxy-3-(4-(4-chlorobenzylamino)-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one
The latter compound was obtained by reacting 5-methoxy-3-(4-amino-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one with 4-chlorobenzaldehyde/sodium borohydride in methanol/methylene chloride at room temperature and was purified by column chromatography (silica gel, ethyl acetate:n-heptane=1:1).

reactant | 5-methoxy-3-(4-amino-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)N)C | C10H11N3O3
reactant | 4-chlorobenzaldehyde sodium borohydride | ClC1=CC=C(C=O)C=C1.[BH4-].[Na+]
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | 5-Methoxy-3-(4-(4-chlorobenzylamino)-3-methylphenyl)-3H-(1,3,4)oxadiazol-2-one | COC1=NN(C(O1)=O)C1=CC(=C(C=C1)NCC1=CC=C(C=C1)Cl)C | C17H16ClN3O3
